US05464864
Reaction of 4-bromophenylhydrazine hydrochloride (4.0 g, 18.1 mmol) with 4-phthalimido-cyclohexanone (4.39 g, 18.1 mmol) in refluxing n-butanol for 20 min, followed by cooling, filtration, and evaporation of the filtrate to dryness yielded 3-phthalimido-6-bromo-1,2,3,4-tetrahydrocarbazole as an orange solid (7.45 g).

reactant | 4-bromophenylhydrazine hydrochloride | 18.1 mmol, 4.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 4-phthalimido-cyclohexanone | 18.1 mmol, 4.39 g | C1(C=2C(C(N1C1CCC(CC1)=O)=O)=CC=CC2)=O | C14H13NO3
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-phthalimido-6-bromo-1,2,3,4-tetrahydrocarbazole | 7.45 g | C1(C=2C(C(N1C1CCC=3NC4=CC=C(C=C4C3C1)Br)=O)=CC=CC2)=O | C20H15BrN2O2
